US05157087
8-(2-methyl-3-buten-2-ylperoxy)-p-menthane.
In the preparation of the present diperoxy ketals a t-alkenyl hydroperoxide (II) can be reacted in a usual way with a ketone in an acid medium. As examples of suitable ketones may be mentioned: acetone, methoxyacetone, methyl ethyl ketone, diethyl ketone, methyl isobutyl ketone, n-butyl-4-ketovalerate, 2,5-hexanedione, cyclohexanone, 3,3,5-trimethylcyclohexanone, cyclopentanone and cyclododecanone.

reactant | methoxyacetone | COCC(C)=O | C4H8O2
reactant | n-butyl-4-ketovalerate | C(CCC)OC(CCC(C)=O)=O | C9H16O3
reactant | 2,5-hexanedione | CC(CCC(C)=O)=O | C6H10O2
reactant | cyclohexanone | C1(CCCCC1)=O | C6H10O
reactant | 3,3,5-trimethylcyclohexanone | CC1(CC(CC(C1)C)=O)C | C9H16O
reactant | cyclopentanone | C1(CCCC1)=O | C5H8O
reactant | cyclododecanone | C1(CCCCCCCCCCC1)=O | C12H22O
solvent | methyl isobutyl ketone | C(C(C)C)C(=O)C | C6H12O
solvent | diethyl ketone | C(C)C(=O)CC | C5H10O
solvent | methyl ethyl ketone | C(C)C(=O)C | C4H8O
solvent | acetone | CC(=O)C | C3H6O
product | 8-(2-methyl-3-buten-2-ylperoxy)-p-menthane | CC(C)(C=C)OOC(C1CCC(CC1)C)(C)C | C15H28O2
